### PR TITLE
Use `module` in more files

### PR DESCRIPTION
**Pull request by ineol**
----

The file DeallocLemmas unfolds definitions

### CODE REVIEW

File: Veir/Prelude.lean [hunk 1]
```diff
@@ -22,7 +22,7 @@ macro:50 "rlet" pat:term "←" expr:term "in" rest:term : term =>
       | none => none
       | some $pat => $rest)
 
-def Option.maybe (p : α → β → Prop) (x : Option α) (y : β) : Prop :=
+@[expose] def Option.maybe (p : α → β → Prop) (x : Option α) (y : β) : Prop :=
   ∀ z, x = some z → p z y
```
Comment (math-fehr) [inline Veir/Prelude.lean:26]: Should we instead rely on `Option.maybe_def`?

File: Veir/IR/WellFormed.lean [hunk 2]
```diff
@@ -855,7 +862,7 @@ theorem BlockPtr.OpChain_next_ne
 theorem ValuePtr.DefUse.hasUses_iff
     (hWF : ValuePtr.DefUse value ctx array missingUses) :
     value.hasUses ctx ↔ array ≠ #[] := by
-  grind [DefUse, hasUses]
+  grind [DefUse, hasUses_def] -- :(
```
Comment (math-fehr) [inline Veir/IR/WellFormed.lean]: Why is this sad btw?

Comment (ineol) [reply Veir/IR/WellFormed.lean]: Back then I thought there were missing lemmas, I removed it!
